US05563163
By a procedure analogous to that described for Preparation 6A, 9.2 g (32.9 mmol) of 3,4-dimethoxy-2-propyl-N,N-diethylbenzamide was reacted with sulfur dioxide and 5.6 g (49.4 mmol) of hydroxylamine-O-sulfonic acid to provide 7.4 g (63%) of 2-aminosulfonyl-4,5-dimethoxy-6-propyl-N,N-dimethylbenzamide which was cyclized in quantitative yield in acetic acid and phenylthiomethylated with 1.42 mL (15 mmol) of chloromethyl phenyl sulfide to provide 4.07 g of 5,6-dimethoxy-2-phenylthiomethyl-4-propylsaccharin. Reaction of 3.59 g (8.8 mmol) of the phenylthioether with 2.12 mL (26.4 mmol) sulfuryl chloride provided 2.84 g (97%) of 2-chloromethyl-5,6-dimethoxy-4-propylsaccharin.

reactant | 3,4-dimethoxy-2-propyl-N,N-diethylbenzamide | 32.9 mmol, 9.2 g | COC=1C(=C(C(=O)N(CC)CC)C=CC1OC)CCC | C16H25NO3
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | hydroxylamine-O-sulfonic acid | 49.4 mmol, 5.6 g | NOS(=O)(=O)O | H3NO4S
product | 2-aminosulfonyl-4,5-dimethoxy-6-propyl-N,N-dimethylbenzamide | 7.4 g, 63% | NS(=O)(=O)C1=C(C(=O)N(C)C)C(=C(C(=C1)OC)OC)CCC | C14H22N2O5S
